US04025641
7.0 g (0.05 mol) of 4-(methylthio)phenol are stirred in 80 cc of absolute dimethylformamide for 30 minutes with 2.8 g (0.05 mol) of pulverized potassium hydroxide. 16.2 g (0.075 mol) of 1,4-dibromo butane are added dropwise over the course of 15 minutes and the mixture is stirred at 20° for 16 hours. After the addition of approximately 150 cc of water, the reaction mixture is extracted with ether, the extract is washed with ice-cold 1N sodium hydroxide solution and saturated sodium chloride solution, dried over sodium sulphate and evaporated. After chromatography of the residue on silica gel with hexene/ethyl acetate (99:1) and (98:2) and subsequent crystallization from petroleum ether, pure 1-(4-bromo-butyloxy)-4-(methylthio)-benzene is obtained. M.P.: 33°-34° C.

reactant | 4-(methylthio)phenol | 0.05 mol, 7.0 g | CSC1=CC=C(C=C1)O | C7H8OS
reactant | potassium hydroxide | 0.05 mol, 2.8 g | [OH-].[K+]
reactant | 1,4-dibromo butane | 0.075 mol, 16.2 g | BrCCCCBr | C4H8Br2
reactant | water | approximately 150 cc | O | H2O
solvent | dimethylformamide | 80 cc | CN(C=O)C | C3H7NO
product | 1-(4-bromo-butyloxy)-4-(methylthio)-benzene | BrCCCCOC1=CC=C(C=C1)SC | C11H15BrOS
